US07488844B2
(iii) Ethyl(2S)-3-(4-{2-[benzyl(hexyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate
To a solution of {4-[(2S)-2,3-diethoxy-3-oxopropyl]phenoxy}acetic acid (0.110 g, 0.37 mmol) in methylene chloride (3.7 mL) were added N-hexyl-benzylamine (0.079 g, 0.41 mmol) and DMAP (0.045 g, 0.37 mmol) followed by 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.071 g, 0.37 mmol) and the reaction mixture was stirred at room temperature overnight. The mixture was diluted with methylene chloride (25 mL), and the organic phase was washed with 5% HCl (3×25 mL), aqueous NaHCO3 (25 mL), and brine (25 mL), dried over Na2SO4, and concentrated in, vacuo.

reactant | {4-[(2S)-2,3-diethoxy-3-oxopropyl]phenoxy}acetic acid | 0.37 mmol, 0.110 g | C(C)O[C@@H](CC1=CC=C(OCC(=O)O)C=C1)C(=O)OCC | C15H20O6
reactant | N-hexyl-benzylamine | 0.41 mmol, 0.079 g | C(CCCCC)NCC1=CC=CC=C1 | C13H21N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.37 mmol, 0.071 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 3.7 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.37 mmol, 0.045 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | Ethyl(2S)-3-(4-{2-[benzyl(hexyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate | C(C1=CC=CC=C1)N(C(COC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC)=O)CCCCCC | C28H39NO5
